US04996203
STEP 30G: trans-2-[3-n-Propylsulfonyl-4-(2-bromoethoxy)-5-methoxyphenyl)-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran
A mixture of trans-2-(3-n-propylsulfonyl-4-hydroxy-5-methoxyphenyl)-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran (4.66 g, 10 mmol), 1,2-dibromoethane (1.84 mL, 20.5 mmol) and K2CO3 (4.0 g) in DMF (20 mL) was heated with stirring at 80° C. for 1 h. The reaction mixture was cooled and partioned between ethyl ether and water. The organic layer was separated, dried, and evaporated to a crystalline mass. Recrystallization from ethyl ether-hexane afforded the title compound, mp 135°-136° C.

reactant | trans-2-(3-n-propylsulfonyl-4-hydroxy-5-methoxyphenyl)-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran | 10 mmol, 4.66 g | C(CC)S(=O)(=O)C=1C=C(C=C(C1O)OC)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C23H30O8S
reactant | 1,2-dibromoethane | 20.5 mmol, 1.84 mL | BrCCBr | C2H4Br2
reactant | K2CO3 | 4.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | trans-2-[3-n-Propylsulfonyl-4-(2-bromoethoxy)-5-methoxyphenyl)-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran | C(CC)S(=O)(=O)C=1C=C(C=C(C1OCCBr)OC)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C25H33BrO8S
